US08791139B2
Synthesis of 1-(3-chloropyridin-2-yl)-3-{[6-(trifluoromethyl)pyridin-3-yl]carbonyl}-1H-pyrazole-5-carboxylic acid
29 mg (0.07 mmol) of methyl 1-(3-chloropyridin-2-yl)-3-{[6-(trifluoromethyl)pyridin-3-yl]carbonyl}-1H-pyrazole-5-carboxylate were dissolved in 2 ml of ethanol, 4 mg (0.1 mmol) of 2N aqueous sodium hydroxide solution were added and the mixture was stirred at RT for 30 min. The solvent was distilled off under reduced pressure, the residue was taken up in water and the mixture was extracted once with methyl tert-butyl ether. The aqueous phase was then acidified with 2N hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated.

reactant | methyl 1-(3-chloropyridin-2-yl)-3-{[6-(trifluoromethyl)pyridin-3-yl]carbonyl}-1H-pyrazole-5-carboxylate | 0.07 mmol, 29 mg | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C(=O)C=1C=NC(=CC1)C(F)(F)F | C17H10ClF3N4O3
reactant | sodium hydroxide | 0.1 mmol, 2N, 4 mg | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-(3-chloropyridin-2-yl)-3-{[6-(trifluoromethyl)pyridin-3-yl]carbonyl}-1H-pyrazole-5-carboxylic acid | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(=O)C=1C=NC(=CC1)C(F)(F)F | C16H8ClF3N4O3
